US07956191B2
3-[(2-fluoro-4-iodophenyl)amino]isonicotinohydrazide hydrochloride was synthesized from tert-butyl 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine-carboxylate (described earlier) by deprotection of the Boc group under acidic conditions (50:50 TFA/DCM). LC/MS [7.11 min; 373 (free base, M+1)]

reactant | tert-butyl 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine-carboxylate | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NNC(=O)OC(C)(C)C)C=CN=C1 | C17H18FIN4O3
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinohydrazide hydrochloride | Cl.FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | InChI=1S/C12H10FIN4O.ClH/c13-9-5-7(14)1-2-10(9)17-11-6-16-4-3-8(11)12(19)18-15;/h1-6,17H,15H2,(H,18,19);1H
